US05990105
1.0 g (0.00458 mol) of 2-bromo-6-methyl-4-nitropyridine and 0.885 g (0.00458 mol) of 4-nitrothiophenol potassium salt were dissolved in 10 ml of 1-methyl-pyrrolidone and stirred at 50° C. for 1 hr. The solvent was removed in a high vacuum and the residue was partitioned in water and ethyl acetate. The combined organic phases were washed with sat. sodium chloride solution and dried over MgSO4. After filtration and removal of the solvent the residue was chromatographed on silica gel with ethyl acetate/hexane 1:4 and 1:3 and subsequently dried in a high vacuum. There was obtained 0.945 g (63%) of 2-bromo-6-methyl-4-(4-nitrophenylsulphanyl)-pyridine as yellow crystals; m.p.: 124-126° C.

reactant | 2-bromo-6-methyl-4-nitropyridine | 0.00458 mol, 1.0 g | BrC1=NC(=CC(=C1)[N+](=O)[O-])C | C6H5BrN2O2
reactant | 4-nitrothiophenol potassium salt | 0.00458 mol, 0.885 g | [K].[N+](=O)([O-])C1=CC=C(C=C1)S
solvent | 1-methyl-pyrrolidone | 10 ml | CN1C(CCC1)=O | C5H9NO
product | 2-bromo-6-methyl-4-(4-nitrophenylsulphanyl)-pyridine | 0.945 g, 63% | BrC1=NC(=CC(=C1)SC1=CC=C(C=C1)[N+](=O)[O-])C | C12H9BrN2O2S
